US04880781
Stir 0.40 g (0728 mmoles) of Boc-Sta-Ile-Phe-OCH3, as prepared in Preparation XX10II above, in 6 ml of TFA-CH2Cl2 (1:1 v/v) at room temperature for 30 minutes. Remove the solvent in vacuo and extract the residue with CH2Cl2 and aq. NaHCO3. Filter the organic layers through Na2SO4 into a flask containing 0.42 g (1.02 mmoles) of Boc-His-(Tos), concentrate the solution to a volume of about 25 ml, and add 0.21 g (1.02 mmoles) of DCC. Stir for 40 minutes, then add 1 drop of HOAc and filter off DCU. Extract the filtrate with aq. NaHCO3, filter the organic layers through Na2SO4, and remove the solvent in vacuo. The crude product is applied to a silica gel chromatography column and the product is eluted with 4% MeOH-96% CH2Cl2 to give 0.566 g (93%) of Box-His(Tos)-Sta-Ile-Phe-OCH3.

reactant | Boc-Sta-Ile-Phe-OCH3 | 0.40 g | N([C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)C(=O)OC(C)(C)C | C29H47N3O7
reactant | Boc-His-(Tos) | 1.02 mmoles, 0.42 g | CC1=CC=C(C=C1)S(=O)(=O)N2C=C(N=C2)C[C@@H](C(=O)O)NC(=O)OC(C)(C)C | C18H23N3O6S
reactant | DCC | 1.02 mmoles, 0.21 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | TFA CH2Cl2 | 6 ml | C(=O)(C(F)(F)F)O.C(Cl)Cl
catalyst | HOAc | 1 drop | CC(=O)O | C2H4O2
product | His(Tos)-Sta-Ile-Phe-OCH3 | N[C@@H](CC1=CN(C=N1)S(=O)(=O)C1=CC=C(C)C=C1)C(=O)N[C@@H](CC(C)C)[C@@H](O)CC(=O)N[C@@H]([C@@H](C)CC)C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC | C37H52N6O8S
